US08865848B2
4-(4-tert-Butylphenyl)-6-(cyclohexylmethyl)-1,2,3,5-tetrahydro-s-indacene
In argon atmosphere, a mixture of 34.6 g (105 mmol) of 4-bromo-6-(cyclohexylmethyl)-1,2,3,5-tetrahydro-s-indacene, 22.4 g (126 mmol) 4-tert-butylphenylboronic acid, 66.8 g (315 mmol) of K3PO4, 1.21 g (21 mmol) of Pd(dba)2, 1.73 g (42 mmol) of dicyclohexyl(2′,6′-dimethoxybiphenyl-2-yl)phosphine and 350 ml of toluene was stirred for 12 h at 100° C. The resulting mixture was cooled to room temperature, and then 600 ml of water was added. The organic layer was separated, and the aqueous layer was extracted with 3×100 ml of dichloromethane. The combined organic extract was dried over Na2SO4 and then evaporated to dryness. The target product was isolated by flash chromatography on silica gel 60 (40-63 um; eluent: hexanes). Yield 24.0 g (62%).

reactant | 4-bromo-6-(cyclohexylmethyl)-1,2,3,5-tetrahydro-s-indacene | 105 mmol, 34.6 g | BrC1=C2CCCC2=CC=2C=C(CC12)CC1CCCCC1 | C19H23Br
reactant | 4-tert-butylphenylboronic acid | 126 mmol, 22.4 g | C(C)(C)(C)C1=CC=C(C=C1)B(O)O | C10H15BO2
reactant | K3PO4 | 315 mmol, 66.8 g | [O-]P(=O)([O-])[O-].[K+].[K+].[K+]
reactant | dicyclohexyl(2′,6′-dimethoxybiphenyl-2-yl)phosphine | 42 mmol, 1.73 g | C1(CCCCC1)P(C1=C(C=CC=C1)C1=C(C=CC=C1OC)OC)C1CCCCC1 | C26H35O2P
catalyst | Pd(dba)2 | 21 mmol, 1.21 g | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd]
solvent | water | 600 ml | O | H2O
solvent | toluene | 350 ml | C1(=CC=CC=C1)C | C7H8
product | 4-(4-tert-Butylphenyl)-6-(cyclohexylmethyl)-1,2,3,5-tetrahydro-s-indacene | C(C)(C)(C)C1=CC=C(C=C1)C1=C2CCCC2=CC=2C=C(CC12)CC1CCCCC1 | C29H36
